US08242133B2
A mixture of 0.49 g of 3-fluoroisonicotinic acid, 0.62 g of 2-amino-4-(trifluoromethyl)phenol, 1.00 g of WSC and 6 ml of pyridine was stirred while heating at 80° C. for two hours. The reaction mixture was cooled to room temperature, and then concentrated. Water was poured into the residue, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was washed with a tert-butyl methyl ether-hexane mixture solvent to give 0.51 g of 3-fluoro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide.

reactant | 3-fluoroisonicotinic acid | 0.49 g | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | 2-amino-4-(trifluoromethyl)phenol | 0.62 g | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
reactant | WSC | 1.00 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 3-fluoro-N-[2-hydroxy-5-(trifluoromethyl)phenyl]isonicotinamide | 0.51 g | FC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)O)C=CN=C1 | C13H8F4N2O2
